US09388149B2
3.2 ml (177.6 mmol, 4.2 eq) of water and 11.04 g (41.96 mmol; 1.0 eq) of 2,6-dichloro-N,N-dimethyl-3-nitrobenzamide (41.96 mmol; 1.00 eq.) in solution in 130.00 ml of tetrahydrofuran were added to a suspension of 7.16 g (179.01 mmol; 4.3 eq) of sodium hydride in 250 ml of tetrahydrofuran cooled to 0° C. After 10 minutes, the reaction medium was stirred at ambient temperature for 19 hours. The reaction medium was hydrolyzed with a 1 N aqueous hydrochloric acid solution and extracted with ethyl acetate. The organic phase was washed with a 1 N aqueous hydrochloric acid solution, dried over anhydrous sodium sulfate, filtered and concentrated. The residue (11.82 g) was chromatographed on silica gel (300 g prepacked column, eluent heptane/ethyl acetate from 40 to 80% of ethyl acetate, 150 ml/min). 6.10 g of 6-chloro-2-hydroxy-N,N-dimethyl-3-nitrobenzamide were obtained in the form of a yellow solid. Yield=59%.

reactant | water | 177.6 mmol, 3.2 ml, 4.2 eq | O | H2O
reactant | 2,6-dichloro-N,N-dimethyl-3-nitrobenzamide | 41.96 mmol, 11.04 g, 1.0 eq | ClC1=C(C(=O)N(C)C)C(=CC=C1[N+](=O)[O-])Cl | C9H8Cl2N2O3
reactant | sodium hydride | 179.01 mmol, 7.16 g, 4.3 eq | [H-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 130.00 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 6-chloro-2-hydroxy-N,N-dimethyl-3-nitrobenzamide | 6.10 g, Yield=59% | ClC1=CC=C(C(=C1C(=O)N(C)C)O)[N+](=O)[O-] | C9H9ClN2O4
